US09359338B2
Step 5: Synthesis of 1′-methylspiro[cyclopropane-1,3′-indolin]-2′-one
Add sodium hydride (60%, 1.4 g, 35.4 mmol) portionwise to the solution of 1-methylindolin-2-one (2.6 g, 17.7 mmol) in DMF (10 mL) at 0° C., stir for 30 min. Then add 1,2-dibromoethane (3.31 g, 17.7 mmol) to the mixture, stir the resulting mixture at room temperature overnight. Pour the reaction mixture to ice water, extract with ethyl acetate (100 mL×2), and wash the combined organic layers with brine (50 mL), dry over anhydrous sodium sulfate. Concentrate under reduced pressure, purify the residue by chromatography (silica gel, EtOAc:PE=1:3) to provide the title compound (1.5 g, 50.0%). MS: (M+1): 174.

reactant | sodium hydride | 35.4 mmol, 1.4 g | [H-].[Na+]
reactant | 1-methylindolin-2-one | 17.7 mmol, 2.6 g | CN1C(CC2=CC=CC=C12)=O | C9H9NO
reactant | 1,2-dibromoethane | 17.7 mmol, 3.31 g | BrCCBr | C2H4Br2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1′-methylspiro[cyclopropane-1,3′-indolin]-2′-one | 1.5 g, 50.0% | CN1C(C2(C3=CC=CC=C13)CC2)=O | C11H11NO
